US07129232B2
To a suspension of 4,5-diamino-1-methylpyrazole sulfuric acid salt (305 g) in tetrahydrofuran (3.05 L) was added tert-butyl 2-[(2,5-dioxo-1-pyrrolidinyl)oxyl]-2-oxoethylcarbamate (415 g) under ice-cooling. To the mixture was added diisopropylethylamine (556 ml) dropwise at a temperature below 10° C. The mixture was stirred at room temperature overnight. To the resulting solution were added brine and saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate (3.0 L). The aqueous layer was extracted with tetrahydrofuran/ethyl acetate=1/1 (3.0 L) twice. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was triturated with diisopropyl ether (1.0 L) and dried in vacuo to give tert-butyl 2-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-2-oxoethylcarbamate (307 g).

reactant | 4,5-diamino-1-methylpyrazole sulfuric acid salt | 305 g | S(O)(O)(=O)=O.NC=1C=NN(C1N)C
reactant | tert-butyl 2-[(2,5-dioxo-1-pyrrolidinyl)oxyl]-2-oxoethylcarbamate | 415 g | O=C1N(C(CC1)=O)OC(CNC(OC(C)(C)C)=O)=O | C11H16N2O6
reactant | diisopropylethylamine | 556 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 3.05 L | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | tert-butyl 2-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-2-oxoethylcarbamate | 307 g | NC1=C(C=NN1C)NC(CNC(OC(C)(C)C)=O)=O | C11H19N5O3
